Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
cefaclor
 
Attending: ___.
 
Chief Complaint:
L renal colic
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ PMH of
Addison's Disease and PE's, who presents with left flank pain.
Originally he was in ___ yesterday and on the way
home around 8 pm he began to notice left flank pain and he
arrived home and went to bed and thought he could sleep it off
but it got progressively worse during the evening, couldnt get
comfortable in bed. Said he could find comfort only in fetal
position. Pain was ___ but "terrible". He had five episodes 
of
vomiting last night more because of nausea than pain. Came to ED
around 11p ___ evening and was found to have CT showing mild L
hydro with hyperdense material in bladder. He was sent home from
the ED after pain was controlled with morphine and he was given 
a
script for oxycodone for presumed passed stone. 

At home today, he had fever to 102 and splitting headache. 
Called
endocrinologist, who thought he should be re-evaluated given
leukocytosis and fever. 

He is now experiencing headache with some intermittent chills. 
He
denies dysuria, hematuria or retention. He says his urine is
somewhat cloudy. Denies diarrhea. This constellation of symptoms
has never happened before. Has seen urologist when he was in his
___ for scrotal cysts. 
 
Past Medical History:
Addison's Syndrome- takes hydrocortisone- diagnosed in the
context of PE, and visual loss, found to have blood clots in
brain- patient currently on Eliquis. Theory is adrenal 
hemorrhage
led to Addison's. 

Takes hydrocortisone, fludrocortisone, Eliquis, and Diamox
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
General: Awake, alert and oriented. In very mild distress. 
CV/Resp: RRR, non-labored respirations
GI: Abdomen soft, somewhat TTP in the LLQ, +CVA tenderness L 
side
GU:no foley 

 
Pertinent Results:
___ 11:00PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NORMAL PH-7.0 
LEUK-NEG
___ 07:27PM   GLUCOSE-141* UREA N-18 CREAT-2.0* SODIUM-143 
POTASSIUM-3.8 CHLORIDE-109* TOTAL CO2-20* ANION GAP-14
___ 07:27PM   WBC-14.1* RBC-4.74 HGB-15.1 HCT-45.3 MCV-96 
MCH-31.9 MCHC-33.3 RDW-12.6 RDWSD-44.3
___ 12:30AM   WBC-12.8* RBC-4.68 HGB-15.0 HCT-43.8 MCV-94 
MCH-32.1* MCHC-34.2 RDW-12.5 RDWSD-43.0
 
Brief Hospital Course:
Mr. ___ was admitted to the urology service after concern for 
a recently passed stone. He had a CT which showed mild L hydro 
and possible clot in the bladder, and a repeat ultrasound showed 
debris in the bladder with resolved hydronephrosis. He continued 
to have some flank pain but denied dysuria. We continued his 
home meds with stress-dose steroid dosing and held his lovenox 
while inpatient. He was seen by endocrinology who made 
recommendations for his steroid management. His Cr resolved to 
1.2 from 2.0 on HD1 and he was considered safe for discharge. 
Antibiotics were discontinued. He will follow up with urology 
for hematuria workup and his PCP on discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO DAILY 
2. AcetaZOLamide S.R. 1000 mg PO QHS 
3. Fludrocortisone Acetate 0.1 mg PO BID 
4. Hydrocortisone 12.5 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left renal colic

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Take your adrenal supplementation as described endocrinology:

Make sure to drink adequte fluids to flush out any clots that 
may remain in your ureter and bladder

Take it easy for the next few days. 

Follow up this week with your primary care physician and your 
endocrinologist. Dr. ___, Taneika ___ 
follow up with your for a follow-up appointment. 
 
Followup Instructions:
___